US07531546B2
To a solution of (1-benzyl-piperidin-4-ylidene)-cyano-acetic acid ethyl ester (112.9 g, 0.40 mol) in EtOH (500 ml) and H2O (100 ml), potassium cyanide (64.6 g, 0.99 mol) is added at ambient temperature. The reaction mixture is stirred at 65 C.° for 24 h. After removal of EtOH, H2O is added to the residue. The waster phase is extracted with diethyl ether. The combined extracts are washed with H2O and brine, dried over sodium sulfate and evaporated down to give 77.7 g of 1-benzyl-4-cyanomethyl-piperidine-4-carbonitrile.

reactant | (1-benzyl-piperidin-4-ylidene)-cyano-acetic acid ethyl ester | 0.40 mol, 112.9 g | C(C)OC(C(C#N)=C1CCN(CC1)CC1=CC=CC=C1)=O | C17H20N2O2
reactant | potassium cyanide | 0.99 mol, 64.6 g | [C-]#N.[K+]
solvent | EtOH | 500 ml | CCO | C2H6O
solvent | H2O | 100 ml | O | H2O
product | 1-benzyl-4-cyanomethyl-piperidine-4-carbonitrile | 77.7 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)CC#N | C15H17N3
